US04110242
V. 1,3-diacetyl-5-methyl-5,6-dihydrouracil
As described in IV, 18.2 gm (0.14 mol) of 5-methyl-5,6-dihydrouracil were reacted with ketene in boiling ethyl acetate in the presence of sodium acetate. The product recrystallized from isopropanol had the following analysis values and a melting point of 130° C to 131° C:

reactant | 5-methyl-5,6-dihydrouracil | 0.14 mol, 18.2 gm | CC1C(NC(NC1)=O)=O | C5H8N2O2
reactant | ketene | C=C=O | C2H2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-diacetyl-5-methyl-5,6-dihydrouracil | C(C)(=O)N1C(=O)N(C(=O)C(C1)C)C(C)=O | C9H12N2O4
